US03958003
p-Fluoro-4-(5-methyl-3-propionyloxyspiro [indan-1,3'-pyrrolidin]-1'-yl) butyrophenone
p-Fluoro-4-(3-hydroxy-5-methylspiro[indan-1,3'-pyrrolidin]-1'-yl) butyrophenone is reacted with propionic acid anhydride in a manner analogous to that described in Example 18. The hydrogen fumarate of the title compound has a M.P. of 153°-155° (from ethanol/ether).

reactant | p-Fluoro-4-(3-hydroxy-5-methylspiro[indan-1,3'-pyrrolidin]-1'-yl) butyrophenone | FC1=CC=C(C=C1)C(CCCN1CC2(CC1)CC(C1=CC(=CC=C12)C)O)=O | C23H26FNO2
reactant | propionic acid anhydride | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | hydrogen fumarate | C(\C=C\C(=O)[O-])(=O)O
product | p-Fluoro-4-(5-methyl-3-propionyloxyspiro [indan-1,3'-pyrrolidin]-1'-yl) butyrophenone | FC1=CC=C(C=C1)C(CCCN1CC2(CC1)CC(C1=CC(=CC=C12)C)OC(CC)=O)=O | C26H30FNO3
